US06706699B2
Step 3: 4-(Dimethyl-phosphinoyl)-phenylamine Hydrochloride
A suspension of 1-(Dimethyl-phosphinoyl)-4-nitro-benzene (2.04 g, 10.2 mmol) and 10% palladium on carbon (0.411 g) in 103 mL of absolute EtOH containing 1.15 mL (11.4 mmol) of conc. HCl was flushed with H2 and stirred at ambient temperature (H2 balloon) for 2 h. The reaction mixture was filtered through Celite, the Celite washed with EtOH, and the combined filtrates concentrated to provide the crude product. Recrystallization from boiling iPrOH (10 mL) provided, after several crops, 1.17 g of an off-white solid: 1H NMR (300 MHz, DMSO-d6) δ 7.61 (dd, J-=11.1, 8.4 Hz, 2H), 7.04 (dd, J=8.4, 2.0 Hz, 2H), 1.64 (s, 3H), 1.60 (s, 3H). 31P NMR (121 MHz, DMSO-d6) δ 39.299.

reactant | 1-(Dimethyl-phosphinoyl)-4-nitro-benzene | 10.2 mmol, 2.04 g | CP(=O)(C1=CC=C(C=C1)[N+](=O)[O-])C | C8H10NO3P
reactant | EtOH | 11.4 mmol, 103 mL | CCO | C2H6O
reactant | HCl | Cl | ClH
catalyst | palladium on carbon | 0.411 g | [Pd] | Pd
product | 4-(Dimethyl-phosphinoyl)-phenylamine Hydrochloride | Cl.CP(=O)(C1=CC=C(C=C1)N)C | InChI=1S/C8H12NOP.ClH/c1-11(2,10)8-5-3-7(9)4-6-8;/h3-6H,9H2,1-2H3;1H
